US04698445
p-Nitrobenzenesulfonyl chloride was reacted with N,N-diisopropyl ethylene diamine to give N-[2-[bis(1-methylethyl)amino]ethyl]-4-nitrobenzene sulfonamide as the free base, m.r. 86°-88° C.

reactant | p-Nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N,N-diisopropyl ethylene diamine | C(C)(C)N(CCN)C(C)C | C8H20N2
product | N-[2-[bis(1-methylethyl)amino]ethyl]-4-nitrobenzene sulfonamide | CC(C)N(CCNS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C(C)C | C14H23N3O4S
